US08957074B2
To a solution of (3aR,8aS)-7-Phenethyl-octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester (1.0 g, 2.64 mmol) in 1,2-dichloroethane (20 mL) was added 1-chloroethyl carbonochloridate (0.286 mL, 2.64 mmol, 1.0 eq) at 0° C. The reaction was stirred with warming to 23° C. over 1 hr, then refluxed for 3 hr. The solvent was removed in vacuo then 20 mL methanol added and the reaction mixture heated to 50° C. for 1 hr. The reaction was concentrated and purified using chromatography (1:2 Ethyl Acetate/Heptane to 100% Ethyl Acetate followed by 12:1 CH2Cl21-Methanol) giving (3aR,8aS)-Octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester.

reactant | (3aR,8aS)-7-Phenethyl-octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester | 2.64 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CC[C@@H]2[C@H]1CN(CCC2)CCC2=CC=CC=C2 | C24H30N2O2
reactant | 1-chloroethyl carbonochloridate | 2.64 mmol, 0.286 mL, 1.0 eq | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | (3aR,8aS)-Octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC[C@@H]2[C@H]1CNCCC2 | C16H22N2O2
